US06498165B1
Step F: 2-[(S)-1-(3-(benzoylamino)phenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine
To a solution of 2-[(S)-1-(3-aminophenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine (10.0 mg) in CH2Cl2 (2 mL) was added triethylamine (13 μL) and benzoyl chloride (3.5 μL). The resulting solution was stirred at room temperature for 30 min. then the volatiles removed in vacuo. The residue was purified on silica gel (2%(2M NH3 in MeOH)/CH2Cl2) then HPLC (Zorbax Rx-SIL, 70:30 hexanes:ethanol) to yield 1.8 mg of the title compound. 1H NMR (500 MHz, CDCl3, partial): δ 8.41 (d, J=5.5 Hz, 1H); 7.87 (m, 2H); 7.82 (m, 2H); 7.76 (s, 1H); 7.58 (m, 2H); 7.51 (m, 2H); 7.41 (t, J=7.9 Hz, 1H); 6.80 (d, J=5.5 Hz, 1H); 1.67 (d, J=6.9 Hz, 3H).

reactant | 2-[(S)-1-(3-aminophenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine | 10.0 mg | NC=1C=C(C=CC1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C19H18N6
reactant | triethylamine | 13 μL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 3.5 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-[(S)-1-(3-(benzoylamino)phenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine | 1.8 mg | C(C1=CC=CC=C1)(=O)NC=1C=C(C=CC1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C26H22N6O
